US04668812
Into a 45 cc Parr bomb was added 2.5 g (0.010 mol) tritertbutoxysilane, 4.7 g (0.020 mol) vinyltriisopropoxysilane, 1.0 g xylene and 2000 ppm Ru3CO12 (29 mg) as a catalyst. The reaction was heated to 225° C. for 3 hours in a fluidized sand bath. A single product, 1-tritertbutoxysilyl-2-triisopropoxysilylethylene was formed.

reactant | tritertbutoxysilane | 0.010 mol, 2.5 g | C(C)(C)(C)O[SiH](OC(C)(C)C)OC(C)(C)C | C12H28O3Si
reactant | vinyltriisopropoxysilane | 0.020 mol, 4.7 g | C(=C)[Si](OC(C)C)(OC(C)C)OC(C)C | C11H24O3Si
solvent | xylene | 1.0 g | C=1(C(=CC=CC1)C)C | C8H10
product | 1-tritertbutoxysilyl-2-triisopropoxysilylethylene | C(C)(C)(C)O[Si](C=C[Si](OC(C)C)(OC(C)C)OC(C)C)(OC(C)(C)C)OC(C)(C)C | C23H50O6Si2
